US08124641B2
Starting with (4-amino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester and 3-nitro-benzenesulfonyl chloride using the method analogous to the one described above for example 1-1, [4-(3-nitro-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester (519 mg, 63.6%) was obtained as a white solid. MS cald. for C17H20N4O6S 408, obsd. (ESI+) [(M+H)+] 409.

reactant | (4-amino-4,5,6,7-tetrahydro-indazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=CC=2C(CCCC12)N)=O | C11H17N3O2
reactant | 3-nitro-benzenesulfonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
product | [4-(3-nitro-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester | 519 mg, 63.6% | C(C)OC(CN1N=CC=2C(CCCC12)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H20N4O6S
